US04022833
Condensation of 1-heptene oxide and 1,7-heptanediamine affords N,N'-(1,7-heptylene)-bis[2-hydroxyheptylamine] (I: R= CH3 (CH2)4, R' = H, X= (CH2)7, Z= H).

reactant | 1-heptene oxide | C1C(CCCCC)O1 | C7H14O
reactant | 1,7-heptanediamine | C(CCCCCCN)N | C7H18N2
product | N,N'-(1,7-heptylene)-bis[2-hydroxyheptylamine] | C(CCCCCCNCC(CCCCC)O)NCC(CCCCC)O | C21H46N2O2
